US07115611B2
B] [2-(3-Methoxy-prop-1-ynyl)-phenoxy-acetic acid ethyl ester
A three neck reaction flask was successively charged with 12.65 g (41.3 mmol) of the above prepared (2-iodo-phenoxy)-acetic acid ethyl ester, 128 ml of acetonitrile, 5.793 g (2 eq.) of 3-methoxy-1-propyne, 17.28 ml (3 eq.) of NEt3, 1.45 g (0.05 eq.) of (PPh3)2PdCl2, and 0.394 g (0.05 eq.) of CuI. After stirring for 4 h the bulk of the solvent was removed i. V. and the residue distributed between HCl and AcOEt. Washing of the organic layer with cold water and brine, drying over magnesium sulfate, and evaporation of the solvents, followed by flash chromatography (SiO2, hexane/AcOEt=8/2), yielded 9.54 g of the title compound as light brown oil.

reactant | (2-iodo-phenoxy)-acetic acid ethyl ester | C(C)OC(COC1=C(C=CC=C1)I)=O | C10H11IO3
reactant | 3-methoxy-1-propyne | 5.793 g, 2 eq. | COCC#C | C4H6O
reactant | NEt3 | 17.28 ml, 3 eq. | CCN(CC)CC | C6H15N
catalyst | (PPh3)2PdCl2 | 1.45 g, 0.05 eq. | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | CuI | 0.394 g, 0.05 eq. | [Cu]I
solvent | acetonitrile | 128 ml | C(C)#N | C2H3N
product | 2-(3-Methoxy-prop-1-ynyl)-phenoxy-acetic acid ethyl ester | 9.54 g | C(C)OC(COC1=C(C=CC=C1)C#CCOC)=O | C14H16O4
